US04977263
(a) 2,3,4,5-Tetrafluorophenyl 2-chlorovinyl ketone
53.2 g of 2,3,4,5-tetrafluorobenzoyl chlorde are added dropwise to a suspension of 36.5 g of anhydrous aluminum chloride in 100 ml of 1,2-dichloroethane at 0°14 10° C., while cooling with ice and stirring. Acetylene is then passed in at 40°-50° C. for 7 hours and the mixture is poured onto ice. The phases are separated, subsequent extraction with methylene chloride is carried out and the extract is washed with water and dried with sodium sulphate. The solvent is distilled off in vacuo and the residue is distilled under a high vacuum. 49.2 g of 2,3,4,5-tetrafluorophenyl 2-chlorovinyl ketone pass over at 92°-105° C./1.5 mbar.

reactant | 2,3,4,5-tetrafluorobenzoyl chlorde | 53.2 g | FC1=C(C(=O)Cl)C=C(C(=C1F)F)F | C7HClF4O
reactant | aluminum chloride | 36.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Acetylene | C#C | C2H2
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
product | 2,3,4,5-Tetrafluorophenyl 2-chlorovinyl ketone | ClC=CC(=O)C1=C(C(=C(C(=C1)F)F)F)F | C9H3ClF4O
